US07087626B2
5 Dimethyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-amine
A solution of 7-(3-chloro-propoxy)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline (54 mg, 0.13 mmol), sodium iodide (5 mg, 0.03 mmol), and 2 N dimethylamine in tetrahydrofuran (3 mL, 6 mmol) in N,N-dimethylformamide (5 mL) is heated at 100° C. for 48 h. The mixture is cooled and concentrated in vacuo. The residue is chromatographed on SiO2 (100% ethyl acetate to 10% methanol in ethyl acetate) to yield the title compound, 41 mg (74%), as a brown solid.

reactant | 7-(3-chloro-propoxy)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | 0.13 mmol, 54 mg | ClCCCOC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C23H21ClN4O
reactant | sodium iodide | 0.03 mmol, 5 mg | [I-].[Na+]
reactant | dimethylamine | 2 N | CNC | C2H7N
reactant | tetrahydrofuran | 6 mmol, 3 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Dimethyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-amine | CN(CCCOC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)C | C25H27N5O
